US05155122
Carbon disulfide (1.6 g, 0 021 mole) is added dropwise to a stirred 0° C. solution of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide (3.0 g, 0.085 mole) in absolute ethanol (36 ml). The mixture is allowed to warm to room temperature and stir three hours. The mixture is stripped of volatiles under reduced pressure and the residue is dissolved in isopropyl ether and the solvent removed under reduced pressure. The resulting solid is recrystallized from isopropyl ether/hexane to give 2.8 g of 5-[3,5-bis(1,1-dimethylethyl)- 4-[(2-methoxyethoxy)methoxy]phenyl]-1,3,4-thiadiazole-2(3H)-thione (3.5 g theor., 80%); mp 134°-135° C.

reactant | Carbon disulfide | 1.6 g | C(=S)=S | CS2
reactant | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide | 0.085 mole, 3.0 g | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C(=N)NN | C19H33N3O3
solvent | ethanol | 36 ml | C(C)O | C2H6O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 5-[3,5-bis(1,1-dimethylethyl)- 4-[(2-methoxyethoxy)methoxy]phenyl]-1,3,4-thiadiazole-2(3H)-thione | 2.8 g, 80% | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NNC(S1)=S | C20H30N2O3S2
